US07569337B2
3-{4-[3-(Tetrahydro-pyran-2-yloxy)-propyl]-piperazin-1 -yl}-phenol
712 mg (4 mmol) 3-Piperazin-1-yl-phenol are dissolved in 30 mL DMF under argon and cooled below 5° C. After addition of 1.38 g (2.5 eq.) K2CO3, 166 mg (0.25 eq.) KI and 888 mg (1 eq.) 2-(3-bromo-propoxy)-tetrahydro-pyran, the suspension is stirred at room temperature for 20 hours, then extracted with AcOEt after dilution with saline. The organic phase is dried over sodium sulfate, evaporated and the residue column chromatographed (silica gel, AcOEt/EtOH 95:5) to yield 630 mg (48%) desired product as a light yellowish resin.

reactant | 3-Piperazin-1-yl-phenol | 4 mmol, 712 mg | N1(CCNCC1)C=1C=C(C=CC1)O | C10H14N2O
reactant | K2CO3 | 1.38 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(3-bromo-propoxy)-tetrahydro-pyran | 888 mg, 1 eq. | BrCCCOC1OCCCC1 | C8H15BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-{4-[3-(Tetrahydro-pyran-2-yloxy)-propyl]-piperazin-1 -yl}-phenol | 630 mg, 48% | O1C(CCCC1)OCCCN1CCN(CC1)C=1C=C(C=CC1)O | C18H28N2O3
